* C:\Users\jpizz\OneDrive\Documents\RPI\2024 Fall\5. Rcos (CSCI-49xx)\RM28-Tractive-System\RM BSPD.asc
R1 N002 0 10
R2 P001 N002 10
V1 P001 0 1
V2 Input_1 0 PULSE(0 1 1 0.5 0.5 0 14 2)
V3 P002 0 5
R5 N007 N006 1k
R6 N010 0 10
R7 P003 N010 10
V7 P003 0 1.98
XU4 Input_1 N002 P002 0 N001 LT1720
V9 N004 0 5
XU2 N010 N007 N004 0 N008 LT1720
C1 0 N007 0.0001
A2 N001 N005 0 0 0 0 N006 0 AND
XU5 0 N008 Output NC_01 N012 N009 N009 N003 NE555
V10 N003 0 5
R9 N003 N009 1000k
C4 N012 0 0.01µ
C5 N009 0 9µ
R3 N011 0 10
R4 P004 N011 10
V4 P004 0 1
V5 Input_2 0 1
V6 P005 0 5
XU1 Input_2 N011 P005 0 N005 LT1720
.tran 30
.lib LT1720.sub
.lib NE555.sub
.backanno
.end
